US04358593
6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
An 0.58 g. portion of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-chloroethoxy)benzoyl]benzo[b]thiophene was combined with 20 ml. of dimethylformamide, 4.8 ml. of piperidine and 100 mg. of potassium iodide, and the mixture was stirred overnight at 40° and then at 50° for two hours. The mixture was evaporated to a brown oil under vacuum, and the oil was worked up by pouring it into 50 ml. of saturated aqueous sodium bicarbonate and extracting the mixture twice with 40 ml. portions of ethyl acetate. The organic layers were combined, washed twice with 100 ml. portions of saturated aqueous sodium chloride and concentrated under vacuum to an oil. To the oily residue was added 50 ml. of 3% hydrogen chloride in methanol, and the acidic mixture was concentrated again to an oil, which was dissolved in hot denatured ethanol and crystallized. The first crop of purified crystals amounted to 0.4 g. and had a melting point and infrared and ultraviolet spectra identical to those of the products of Examples 12 and 31.

reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-chloroethoxy)benzoyl]benzo[b]thiophene | CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCCl)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | C25H21ClO8S3
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | InChI=1S/C30H31NO8S3.ClH/c1-41(33,34)38-24-12-8-22(9-13-24)30-28(26-15-14-25(20-27(26)40-30)39-42(2,35)36)29(32)21-6-10-23(11-7-21)37-19-18-31-16-4-3-5-17-31;/h6-15,20H,3-5,16-19H2,1-2H3;1H
